US07888364B2
Stoichiometric amounts (0.04 mol) of methyl proplolate and ethyl 3-aminocrotonate were heated to 140° C. for 1 h. 1 g of the crude (2E,4Z)-methyl-4-(1-aminoethylidene)-5-oxooct-2-enoate in 4 mL of DMF was heated to 230° C. in a sealed microwave reactor for 40 min. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated to afford crude ethyl 6-hydroxy-2-methylnicotinate. A mixture of 800 mg of crude ethyl 6-hydroxy-2-methylnicotinate in 4 mL of phosphorus oxychloride was heated to 150° C. in a sealed microwave reactor for 15 min. The reaction mixture was poured into ice/water, extracted with diethyl ether. The combined organic layers were dried (MgSO4) and evaporated. Purified by silica gel chromatograph (0-20% ethyl acetate/hexane) to yield ethyl 6-chloro-2-methylnicotinate. 400 mg of ethyl 6-chloro-2-methylnicotinate was hydrolyzed via Procedure M to give 6-chloro-2-methylnicotinic acid. 300 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-chloro-2-methylnicotinic acid via Procedure G. The reaction mixture was diluted with ethyl acetate, washed with 0.1 N sodium hydroxide and brine, dried (MgSO4) and evaporated to afford 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide. Procedure F was performed using 100 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 128 mg of 2,6-dimethylpiperazine in 1 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-((3S,5R)-3,5-dimethylpiperazin-1-yl)-2-methylnicotinamide. MS (Q1) 436.3 (M)+.

reactant | ethyl 6-hydroxy-2-methylnicotinate | 800 mg | OC1=NC(=C(C(=O)OCC)C=C1)C | C9H11NO3
reactant | phosphorus oxychloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 6-chloro-2-methylnicotinate | ClC1=NC(=C(C(=O)OCC)C=C1)C | C9H10ClNO2
